US08114868B2
(R)-6-ethyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (R)-3-((S)-1-(4-bromophenyl)propyl)-6-ethyl-6-phenyl-1,3-oxazinan-2-one following procedures analogous to those described in Example 32 Method 2 Steps 3 and 4 using 4-iodo-1-methylpyridin-2(1H)-one in Step 4. LC-MS Method 1 tR=1.58 min, m/z=431 (M+1); 1H NMR (CDCl3) 7.33 (1H, d, J=7.03 Hz), 7.29-7.21 (7H, m), 7.01 (2H, d, J=8.20 Hz), 6.75 (1H, d, J=2.05), 6.39 (1H, dd, J=2.05, 7.03), 5.48 (1H, ap dd, J=6.44, 9.66), 3.58 (3H, s), 2.95-2.87 (1H, m), 2.37-2.14 (3H, m), 2.06-1.81 (m, 4H), 1.00 (3H, t, J=7.32), 082 (3H, t, J=7.61).

reactant | (R)-3-((S)-1-(4-bromophenyl)propyl)-6-ethyl-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](CC)N1C(O[C@](CC1)(C1=CC=CC=C1)CC)=O | C21H24BrNO2
reactant | 4-iodo-1-methylpyridin-2(1H)-one | IC1=CC(N(C=C1)C)=O | C6H6INO
product | (R)-6-ethyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one | C(C)[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C1=CC=CC=C1 | C27H30N2O3
